US04016262
Preparation of N(6)-Methyl-N(6)-cyclohex-3-enylmethyl-adenosine
6.2 g. triacetyl-6-chloro-9-(β-D-ribofuranosyl)-purine, 2.5 g. methyl-cyclohex-3-enyl-methylamine and 2.8 ml. triethylamine were left to stand at ambient temperature for 16 hours in 100 ml. butanol. The reaction mixture was then mixed with 150 ml. diethyl ether, extracted twice with water and the organic phase evaporated to dryness in a vacuum. The residue was dissolved in 100 ml. 25% methanolic ammonia and left to stand for a few days at ambient temperature. 3.4 g. (60% of theory) N(6)-methyl-N(6)-cyclohex-3-enyl-methyl-adenosine crystallized out directly from the methanolic solution; m.p. 154°- 156° C.

reactant | triacetyl-6-chloro-9-(β-D-ribofuranosyl)-purine | C(C)(=O)N1CN(C2N(CN(C(=C12)Cl)C(C)=O)C(C)=O)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C16H23ClN4O7
reactant | methyl-cyclohex-3-enyl-methylamine | CN(C)C1CC=CCC1 | C8H15N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | butanol | C(CCC)O | C4H10O
product | N(6)-Methyl-N(6)-cyclohex-3-enylmethyl-adenosine | CN(C=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1)CC1CC=CCC1 | C18H25N5O4
